US09382197B2
Step 2: 4-((1R)-1-{[(tert-butylamino)carbonyl]amino}ethyl)-N-hydroxybenzamide
To the vial containing (R)-4-(1-aminoethyl)benzoic acid hydrochloride was added tert-butyl isocyanate (0.023 mL, 0.198 mmol), N,N dimethylformamide (3.0 mL), and triethylamine (0.22 mL, 1.59 mmol). After the reaction was stirred at rt for 16 h, HATU (0.075 g, 0.198 mmol) in N,N-dimethylformamide (0.5 mL) was added, immediately followed by the addition of O-(tert-butyldimethylsilyl)hydroxylamine (0.044 g, 0.30 mmol) in DCM (1 mL). This mixture was shaken at rt for 1 hr, after which the mixture was evaporated to dryness. To the residue was added hydrochloric acid (4 mL, 1% in IPA). After shaking at rt for 30 min, solid NaHCO3 was added to quench the excess acid, and the mixture was evaporated to dryness to give a solid residue. This solid was dissolved in DMSO (1.2 mL), and filtered; then purified via Gilson prep-HPLC [15-38% MeCN—H2O] to give the title compound (0.026 g, 47%) as a white solid. LC-MS: (FA) ES+ 280; 1H NMR (Methanol-d4, 400 MHz) 87.69 (d, J=8.3 Hz, 2H), 7.37 (d, J=8.3 Hz, 2H), 4.80 (q, J=7.0 Hz, 1H), 1.37 (d, J=7.0 Hz, 3H), 1.26 (s, 9H).

reactant | (R)-4-(1-aminoethyl)benzoic acid hydrochloride | Cl.N[C@H](C)C1=CC=C(C(=O)O)C=C1
reactant | tert-butyl isocyanate | 0.198 mmol, 0.023 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 1.59 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.198 mmol, 0.075 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | O-(tert-butyldimethylsilyl)hydroxylamine | 0.30 mmol, 0.044 g | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 1.2 mL | CS(=O)C | C2H6OS
solvent | N,N dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | 4-((1R)-1-{[(tert-butylamino)carbonyl]amino}ethyl)-N-hydroxybenzamide | 0.026 g, 47% | C(C)(C)(C)NC(=O)N[C@H](C)C1=CC=C(C(=O)NO)C=C1 | C14H21N3O3
